US08859533B2
Synthesis of 2-(di(pyridine-2-yl)amino)ethanol
To a slurry of LAH (lithium aluminum hydride) (1.17 g, 30.8 mmol, 3.0 equiv) in THF (tetrahydrafuran) (45 ml) was added Tert-butyl 2-(di(pyridine-2-yl)amino)acetate (2.9 g, 10.2 mmol) at 0° C. under 1 atm argon (Ar). The reaction was slowly warmed to room temperature over 4 h. The reaction mixture was then diluted with diethyl ether and cooled to 0° C. The reaction was quenched via careful addition of water (4.0 ml) and then dried with magnesium sulfate. The solvent was removed in vacuo, and the crude product was purified by flash chromatography (SiO2, hexane/ethyl acetate=1:1) to afford DPAE as a pale yellow oil. DPAE was obtained (Yield: 1.2 g (55%)), and confirmed by 1H NMR (DMSO-d6, 300 MHz): δ8.27 (m, 2H), 7.62 (m, 2H), 7.16 (d, J=8.4 Hz, 2H), 6.93 (m, 2H), 4.92 (t, J=5.4 Hz, 1H), 4.16 (t, J=6.5 Hz, 2H), 3.58 (q, J=6.5 Hz, 2H). ESI-MS (cation): 216.1 m/z (M+H+) obsd, 215 m/z calcd.

reactant | LAH | 30.8 mmol, 1.17 g, 3.0 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Tert-butyl 2-(di(pyridine-2-yl)amino)acetate | 10.2 mmol, 2.9 g | N1=C(C=CC=C1)N(CC(=O)OC(C)(C)C)C1=NC=CC=C1 | C16H19N3O2
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(di(pyridine-2-yl)amino)ethanol | N1=C(C=CC=C1)N(CCO)C1=NC=CC=C1 | C12H13N3O
